US04054651
3-Oxo-17β-(1-oxopropoxy)androst-4-en-19-al
The composition of claim 25 wherein the progestogen is 17-hydroxy-19-nor-17α-pregn-4-en-20yn-3-one, 17-hydroxy-19-nor-17α-pregn-4-en-20-yn-3-one acetate, 17-hydroxy-19-nor-17α-pregn-5(10)en-20-yn-3-one, 17-hydroxy-19-nor-17α-pregn-4-en-20-yn, 19-nor-17α-pregn-4-en-20-yne-3β,17-diol diacetate, 3-cyclopentyloxy-19-nor-17α-pregna-3,5-diene-20-yn-17-ol acetate, 16α(R),17-](1phenylethylidene)bis(oxy)]pregn-4-ene-3,20-dione, 17-hydroxy-6α-methylpregn-4-ene-3,20-dione acetate, 17α-hydroxy-6-methylpregna-4,6-diene-3,20-dione acetate, 17α-hydroxy-6-methyl-16-methylene-4,6-diene-3,20-dione acetate, 17β-hydroxy-6α-methyl-17-(1-propynyl)androst-4-en-3-one monohydrate, 13-ethyl-17-hydroxy-18,19-dinor-17α-pregn-4-en-20-yn-3-one, or 9β,10α-pregna-4,6-diene-3,20-dione.

reactant | 17-hydroxy-19-nor-17α-pregn-4-en-20yn-3-one | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@]2(C#C)O)CCC4=CC(=O)CC[C@H]34 | C20H26O2
reactant | 17-hydroxy-19-nor-17α-pregn-4-en-20-yn-3-one acetate | CC(=O)O[C@]1(CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@H]34)C)C#C | C22H28O3
reactant | 17-hydroxy-19-nor-17α-pregn-5(10)en-20-yn-3-one | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@]2(C#C)O)CCC4=C3CCC(=O)C4 | C20H26O2
reactant | 19-nor-17α-pregn-4-en-20-yne-3β,17-diol diacetate | CC(=O)O[C@H]1CC[C@@H]2[C@H]3CC[C@]4([C@H]([C@@H]3CCC2=C1)CC[C@]4(C#C)OC(=O)C)C | C24H32O4
reactant | pregn-4-ene-3,20-dione | CC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C21H30O2
reactant | 17-hydroxy-6α-methylpregn-4-ene-3,20-dione acetate | C(C)(=O)O.O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C
reactant | 17α-hydroxy-6-methylpregna-4,6-diene-3,20-dione acetate | C(C)(=O)O.O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C
reactant | 17β-hydroxy-6α-methyl-17-(1-propynyl)androst-4-en-3-one monohydrate | O.O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1C[C@@H](C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C)C#CC
reactant | 13-ethyl-17-hydroxy-18,19-dinor-17α-pregn-4-en-20-yn-3-one | CC[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@]2(C#C)O)CCC4=CC(=O)CC[C@H]34 | C21H28O2
reactant | 9β,10α-pregna-4,6-diene-3,20-dione | CC([C@H]1CC[C@H]2[C@@H]3C=CC4=CC(CC[C@@]4(C)[C@@H]3CC[C@]12C)=O)=O | C21H28O2
product | 3-Oxo-17β-(1-oxopropoxy)androst-4-en-19-al | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C=O)OC(CC)=O | C22H30O4
